US07459448B2
4-(7-Benzyl-9-chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino) -benzoic acid (I-6)
In a manner similar to that described for method I, 1-benzyl-8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-N) and 4-guanidinobenzoic acid were converted to I-6 (26%): MS m/z═471 (M+H)HRMS Calcd. for C26H19ClN4O3: 471.1223, Found 471.1310.

reactant | 1-benzyl-8-chloro-4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | C(C1=CC=CC=C1)N1C2=C(C(C(CC1=O)=CN(C)C)=O)C=CC(=C2)Cl | C20H19ClN2O2
reactant | 4-guanidinobenzoic acid | N(C(=N)N)C1=CC=C(C(=O)O)C=C1 | C8H9N3O2
product | 4-(7-Benzyl-9-chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino) -benzoic acid | C(C1=CC=CC=C1)N1C2=C(C3=C(CC1=O)C=NC(=N3)NC3=CC=C(C(=O)O)C=C3)C=CC(=C2)Cl | C26H19ClN4O3
